US20010006686A1
Inhibitory Effect of Organic Extract of Atractylodes lancea Rhizomes on Thromboxane Synthetase Activity
A 100 μg/ml sample of the test solution was incubated with 1:200 dilution of thromboxane A2 synthase (isolated from a microsomal fraction of rabbit platelets) and 5 ng prostaglandin G2 as substrate in Tris buffer at a pH of 7.5 for 30 minutes at a temperature of 37° C. The thromboxane A2 formed was immediately converted to thromboxane B2 which was quantitated by a radioimmunoassay. The results of these assays are set forth in Table 5.

reactant | thromboxane A2 | CCCCC[C@@H](/C=C/[C@@H]1[C@H]([C@@H]2C[C@@H](O2)O1)C/C=C\CCCC(=O)O)O | C20H32O5
reactant | thromboxane B2 | CCCCC[C@@H](/C=C/[C@@H]1[C@H]([C@H](CC(O1)O)O)C/C=C\CCCC(=O)O)O | C20H34O6
product | Thromboxane | CCCCCCC[C@H]1CCCO[C@@H]1CCCCCCCC | C20H40O
